US07119203B2
Preparation of 4-(4-hydroxy-piperidine-1-sulfonyl)-tetrahydro-pyran-4-carboxylic acid tert-butyl ester
A 250 mL round-bottom flask was charged with 4-(4-oxo-piperidine-1-sulfonyl)-tetrahydro-pyran-4-carboxylic acid tert-butyl ester (10 g, 29 mmol) and methanol (100 mL). The resulting slurry was rapidly stirred with an overhead-stirring paddle, and the flask was immersed into an ice bath. Sodium borohydride (1.09 g, 29 mmol) was added in three portions over 15 min. After complete addition, the homogeneous mixture was warmed to room temperature and stirred for 30 min. The flask was again immersed into an ice water bath, and the reaction was quenched by careful addition of a saturated ammonium chloride solution (25 mL). The mixture was then warmed to room temperature, diluted with water (100 mL), and extracted with methylene chloride (3×100 mL). The combined organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo. This afforded 10 g of an off-white, crystalline solid (99% yield). 1H NMR (CDCl3) δ 1.50 (s, 9H), 1.53–1.62 (m, 2H), 1.68 (br s, 1H), 1.86–1.92 (m, 2H), 2.11 (td, J=4.7, 12.8 Hz, 2H), 2.30 (d, J=11.2 Hz, 2H), 3.17 (m, 2H), 3.29 (t, J=12.2 Hz, 2H), 3.63 (m, 2H), 385 (m, 1H), 3.94 (dd, J=4, 11.2 Hz, 2H); Electrospray mass spectrometry showed m/z=350 (M+H)+.

reactant | 4-(4-oxo-piperidine-1-sulfonyl)-tetrahydro-pyran-4-carboxylic acid tert-butyl ester | 29 mmol, 10 g | C(C)(C)(C)OC(=O)C1(CCOCC1)S(=O)(=O)N1CCC(CC1)=O | C15H25NO6S
reactant | Sodium borohydride | 29 mmol, 1.09 g | [BH4-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 4-(4-hydroxy-piperidine-1-sulfonyl)-tetrahydro-pyran-4-carboxylic acid tert-butyl ester | 99% yield | C(C)(C)(C)OC(=O)C1(CCOCC1)S(=O)(=O)N1CCC(CC1)O | C15H27NO6S
